US06403601B1
(h) 3-Cyano-2-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
To a stirred solution of methyl 3-cyano-2-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate (0.65 g, 2.64 mmol) in THF (12 mL) and H2O (4 mL) was added 1N NaOH (3 mL). Methanol was added dropwise until the cloudy solution became clear. After stirring for 96 h at room temperature, the reaction was treated with sat. aqueous sodium bicarbonate and Et2O. The collected aqueous layer was acidified to pH 2 with 1N HCl, the resulting precipitate extracted with DCM (3×25 mL), dried (Na2SO4), filtered and concentrated to afford a white solid (0.115 g, 19%). 1H NMR (CDCl3) δ 7.39 (s, 1H), 4.09 (s, 3H), 2.82 (m, 4H), 1.80 (m, 4H).

reactant | methyl 3-cyano-2-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 2.64 mmol, 0.65 g | C(#N)C=1C(=C(C=2CCCCC2C1)C(=O)OC)OC | C14H15NO3
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | H2O | 4 mL | O | H2O
solvent | Et2O | CCOCC | C4H10O
solvent | Methanol | CO | CH4O
product | 3-Cyano-2-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 0.115 g, 19% | C(#N)C=1C(=C(C=2CCCCC2C1)C(=O)O)OC | C13H13NO3
